US09382238B2
To a suspension of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide (100 g, 170 mmol) in DCM (1 L) was added TFA (80 mL, 1077 mmol) dropwise. The mixture was stirred at 25° C. for 2 h. The mixture was then concentrated. To the residue was added H2O (500 mL) dropwise and then neutralized with saturated Na2CO3 solution to adjust pH=7.5. The precipitate was filtered, washed with H2O (350 mL×3) and dried in vacuo. To the solid was added PE/EA (3:1, v/v, 300 mL) and stirred for 0.5 h. The solid was filtered and washed with PE/EA (3:1, v/v, 100 mL×2). The solid was redissolved in DCM/MeOH (20:1, v/v, 1.5 L) and then concentrated in vacuo to a minimal amount of solvent (about 150 mL). The solid was filtered, washed with CH3CN (50 mL×2) and dried in vacuo. The residual solid was added to EtOH (2.5 L) and heated to 80° C. After the solid was dissolved completely, the mixture was concentrated in vacuo to give a white solid of 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide (61.4 g, 131 mmol, 77% yield): 1H NMR (400 MHz, CD3OD) δ 7.40-7.30 (m, 2H), 7.25-7.18 (m, 2H), 6.88 (s, 1H), 5.98 (s, 1H), 4.11 (q, J=7.2 Hz, 2H), 3.81 (s, 2H), 1.56 (s, 6H), 1.37 (t, J=7.2 Hz, 3H); ES-LCMS m/z: 468 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide | 170 mmol, 100 g | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=NOC(=C1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
reactant | TFA | 1077 mmol, 80 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide | 131 mmol, 61.4 g, 77% yield | C(C)OC=1C(=CNC(C1)=O)C1=CC(=C(C=C1)CC(=O)NC1=NOC(=C1)C(C(F)(F)F)(C)C)F | C22H21F4N3O4
